US07872031B2
To a stirred solution of 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone (1.01 g, 2.66 mmol) in 1:1 methylene chloride/tetrahydrofuran (26 mL) was added bromine (136 μL, 2.66 mmol) and 3 mL acetic acid. The reaction mixture was stirred at room temperature overnight, at which point the orange color had dissipated. Concentration gave 2-bromo-1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone as an orange oil (1.1 g, 95%), which was used in the next reaction without further purification.

reactant | 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone | 2.66 mmol, 1.01 g | BrC=1C=C(C(=NC1)Cl)C(CC1=C(C(=CC=C1)Cl)Cl)=O | C13H7BrCl3NO
reactant | methylene chloride tetrahydrofuran | 26 mL | C(Cl)Cl.O1CCCC1
reactant | bromine | 2.66 mmol, 136 μL | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone | 1.1 g, 95% | BrC(C(=O)C=1C(=NC=C(C1)Br)Cl)C1=C(C(=CC=C1)Cl)Cl | C13H6Br2Cl3NO
